US04447435
To a soluttion of 7-methyl-4-hydroxyquinoline (2.63 g.) in water (55 ml.) were added aqueous formaldehyde (37%, 3.5 ml.), sodium methanesulphinate (6.39 g.) and triethylamine (4 ml.). The mixture was heated with stirring on the steam bath for 60 hours, cooled to room temperature, and filtered. The solid residue was washed with water and dried to give the novel compound 4-hydroxy-7-methyl-3-methylsulphonylmethylquinoline, m.p. 285°-290°.

reactant | 7-methyl-4-hydroxyquinoline | 2.63 g | CC1=CC=C2C(=CC=NC2=C1)O | C10H9NO
reactant | formaldehyde | 3.5 ml | C=O | CH2O
reactant | sodium methanesulphinate | 6.39 g | CS(=O)[O-].[Na+]
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | water | 55 ml | O | H2O
product | 4-hydroxy-7-methyl-3-methylsulphonylmethylquinoline | OC1=C(C=NC2=CC(=CC=C12)C)CS(=O)(=O)C | C12H13NO3S
